US07772271B2
2-(4-Amino-phenyl)-6-(2-chloro-ethoxy)-1-cyclobutyl-1H-indole-3-carbonitrile (800 mg, 2.19 mmol) was dissolved in phosgene in toluene (2M, 10 mL, 5.00 mmol) and stirred for 2 h at 80° C. in a sealed tube. Solvent was removed and the white solid obtained was suspended in 1 ml of DCE. To this solution was added (R)-1-cyclopropylethanol (400 uL, 5.28 mmol) and DMAP (268 mg, 2.19 mmol). Solution was stirred in a sealed tube for 16 h at room temperature. An aqueous workup was performed in 0.5M HCl (200 mL) and extracted with EtOAc (2×100 mL). The organic layers were combined, dried over MgSO4 and concentrated. Solid product was triturated with ether to generate 800 mg (77% yield) of {4-[6-(2-Chloro-ethoxy)-3-cyano-1-cyclobutyl-1H-indol-2-yl]-phenyl}-carbamic acid 1-cyclopropyl-ethyl ester, as a white solid.

reactant | 2-(4-Amino-phenyl)-6-(2-chloro-ethoxy)-1-cyclobutyl-1H-indole-3-carbonitrile | 2.19 mmol, 800 mg | NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OCCCl)C1CCC1 | C21H20ClN3O
reactant | toluene | 5.00 mmol, 2M, 10 mL | C1(=CC=CC=C1)C | C7H8
reactant | (R)-1-cyclopropylethanol | 5.28 mmol, 400 uL | C1(CC1)[C@@H](C)O | C5H10O
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | DCE | 1 ml | ClCCCl | C2H4Cl2
catalyst | DMAP | 2.19 mmol, 268 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | HCl | 0.5M, 200 mL | Cl | ClH
product | {4-[6-(2-Chloro-ethoxy)-3-cyano-1-cyclobutyl-1H-indol-2-yl]-phenyl}-carbamic acid 1-cyclopropyl-ethyl ester | 800 mg, 77% yield | C1(CC1)C(C)OC(NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OCCCl)C1CCC1)=O | C27H28ClN3O3
